Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Benadryl Decongestant
 
Attending: ___.
 
Chief Complaint:
Failure to thrive  

 
Major Surgical or Invasive Procedure:
right IJ tunneled line placement ___ 

 
History of Present Illness:
Ms. ___ is a ___ w/ afib on coumadin, HTN, HLD, uterine CA, 
CKD w/ bilateral nephrostomy tubes p/w failure to thrive, after 
a recent 5 day admission 9 days ago (___) 
during which time she was treated for bloody nephrostomy tube 
output, found to have UTI, ___, supratherapeutic INR, and LGIB.  

Please refer to Discharge ___ of ___ for details of 
her most recent hospitalizations. In brief, she was hospitalized 
at ___ in ___ and treated for recurrent 
pyelonephritis associated with her nephrostomy tubes, ___, C. 
difficile infection, and supratherapeutic INR of 10. Her urine 
culture grew pan-sensitive Pseudomonas on ___, and she was 
transitioned to Ciprofloxacin PO with a planned 14-day course.  

She was again admitted ___ and found to have UTI, ___,  
supratherapeutic INR, and LGIB. UTI was treated initially with 
cefepime, then with zosyn, transitioned to ciprofloxacin on  
discharge. ___ presented with a Cr of 3.9 from prior value of  
2.8. LGIB characterized by one loose brown BM accompanied by  
~30cc BRBPR; thought to be due to previously noted colonic  
angioectasias in the setting of supratherapeutic INR; this did  
not recur or require pRBC transfusion. Patient went home on 
ciprofloxacin as UA was ___ for pseudomonas. However, her 
urologist discontinued this 5 days ago (6 days prior to 
recommended course) because there had been no culture.  

Patient's family reports that since her discharge from the 
hospital she's had decreased appetite (eating ___ yogurts and an 
egg for the day), poor fluid intake, low UOP, and decreased 
concentration, frequently falling asleep, not joining in 
activities, and not doing things she usually does like crossword 
puzzles. All of this started when she left the hospital, but it 
acutely worsened 5 days ago when she was taken off of the 
ciprofloxacin. Prior to coming off the cipro she had UOP of 
900cc/day or more, and after coming off her UOP reduced to maybe 
360cc/day or 50cc over 2 hr. She has had a several pound weight 
increase, despite her low intake. Her legs are newly swollen. 
She has had no fevers, chills, chest pain, SOB, no diarrhea 
(loose stool but not like when she had C.diff), no constipation, 
no syncope, no trauma, and no pain. Her daughter cautions that 
the patient never reports pain even to broken bones. She has 
remained lucid, just with decreased interest. Patient was 
scheduled for a cystoscopy with nephrologist Dr. ___ 
___ for hematuria.  
 
In the ED, initial vitals: 96.9 60 140/69 20 99% RA. Patient was 
in NAD, with irregularly irregular rhythm, ___ edema, weeping 
from a supeficial wound on her L leg, and nephrostomy with 
clear/yellow urine x2. Labs were notable for Na 132, BUN 90, Cr 
4.0, CK 14, MB 2, Ca 8.2, Mg 2.0, ALT/AST ___, Tbili 0.2, Alb 
3.4, WBC 12.9 (87.1% neutrophils), Hgb/Hct 9.8/31.2. B/l LENIS 
showed no DVT.  
UA's from each nephrostomy with many yeast, elevated protein (L 
300, R 600), blood, leukocytes, few bacteria and negative 
nitrites, hyaline casts. INR 2.0, lactate 1.8. She was given IV 
cefepime 2g, and aspirin 324mg. Vitals prior to transfer: 97.8 
82 138/76 16 99% RA.  
On arrival, she had no acute complaints and was asking to eat. 
She reports feeling fatigured and depressed. She denied 
fevers/chills, SOB. She voiced no further concerns.  
 
ROS:  
No fevers, chills, night sweats, or weight changes. No changes 
in vision or hearing, no changes in balance. No cough, no 
shortness of breath, no dyspnea on exertion. No chest pain or 
palpitations. No nausea or vomiting. No diarrhea or 
constipation. No dysuria or hematuria. No hematochezia, no 
melena. No numbness or weakness, no focal deficits.  

 
Past Medical History:
1. Diabetes mellitus type 2 with diabetic nephropathy, NIDDM  
2. Anemia  
3. Depression  
4. Hypertension  
5. Urinary incontinence  
6. Low back pain  
7. Osteoarthritis  
8. Endometrial Cancer- s/p Total abdominal hysterectomy with  
bilateral salpingo-oophorectomy in ___, c/b urinary  
incontinence, previously self cathing, then developed  
vesiculocutaneous fistulas and given bilateral nephrostomy  
tubes.  
9. CKD, stage 4 from DM/HTN. Had fistula placed ___, but has 
not matured. Surgical eval ___ recommended graft when reaches 
ESRD.  
10. Hypercholesterolemia  
11. Gait disturbance  
6. History of hairline fracture of the left wrist.  
7. Osteoarthritis.  
8. Lumbar spinal stenosis with low back pain.  
9. History of migraines.  
10. History of angiodysplasia.  
11. Hypercholesterolemia.  
13. Basal cell carcinoma.  
15. Atrial Fibrillation, on Warfarin, ___.  
16. C-Difficile, ___.  
17. Bilateral nephrostomy tubes, ___.  
18. Pulmonary Hypertension  
19. exchange of bilateral 10 ___ nephrostomy tubes ___  

 
Social History:
___
Family History:
Cancer in brother ("abdomen"), daughter (thyroid). DM in sister. 
  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 97.4, 112/74, 92, 18, 100 RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclerae, pink conjunctivae, 
 
patent nares, MMM, nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably  
without use of accessory muscles  
ABDOMEN: large umbilical hernia noted, soft. nondistended, +BS,  

nontender in all quadrants, no rebound/guarding, no 
hepatosplenomegaly. Bulging flanks, no shifting dullness.  
BACK: bilateral nephrostomy tubes draining significant amounts 
of clear yellow urine. No surrounding erythema or tenderness to 
palpation. No CVA tenderness.  
EXTREMITIES: moving all extremities well. RLE> LLE edema, 1+ 
pitting to shins. Both lower extremities equally warm, 
nontender. Venous stasis changes noted. L leg with weeping 
bleeding wound covered with bandange. R inner thigh with 
bandage. R. knee with large vertical scar. Left big toe has 
black callus, and 2, and ___ toes are red but not warm or 
tender. Pt unable to feel light touch from feet to knees.  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, fluent speech, aox3, president "Obama", 
days of week backards, 7quarters = $1.75. +Asterixis. Mild 
myoclonic tic noticed at rest.  
SKIN: Warm and well perfused in ___ are cool but perfused.  

DISCHARGE PHYSICAL EXAM:  
VS: 97.8 80 132/74 95 on RA
GENERAL: NAD, breathing comfortably
CARDIAC: irregular, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB anteriorly. Decreased breath sounds at the bases 
(L>R)
ABDOMEN: large umbilical hernia noted, soft. nondistended, +BS,  

nontender in all quadrants, no rebound/guarding, no 
hepatosplenomegaly.  
BACK: bilateral nephrostomy tubes draining clear yellow urine. 
No tenderness to palpation. No CVA tenderness. Bilateral 
nephrostomy tubes with surrounding erythema, nontender to 
palpation, with skin breakdown, most notable in areas covered by 
tape
EXTREMITIES: moving all extremities well. RLE> LLE edema, 1+ 
pitting to shins. Both lower extremities equally warm, 
nontender. 
PULSES: 2+ DP pulses bilaterally  
NEURO: aox3, grossly normal
SKIN: Left subclavian line with mild erythema but no induration, 
tenderness or purulence

 
Pertinent Results:
LABS ON ADMISSION
___ 11:20AM BLOOD WBC-12.9* RBC-3.25* Hgb-9.8* Hct-31.2* 
MCV-96 MCH-30.2 MCHC-31.5 RDW-19.0* Plt ___
___ 11:20AM BLOOD Neuts-87.1* Lymphs-6.7* Monos-4.3 Eos-1.6 
Baso-0.3
___ 12:02PM BLOOD ___ PTT-36.2 ___
___ 11:20AM BLOOD Glucose-159* UreaN-90* Creat-4.0* Na-132* 
K-4.1 Cl-98 HCO3-20* AnGap-18
___ 11:20AM BLOOD CK-MB-2
___ 11:20AM BLOOD cTropnT-0.16*
___ 11:20AM BLOOD ALT-29 AST-20 CK(CPK)-14* AlkPhos-82 
TotBili-0.2
___ 11:20AM BLOOD Albumin-3.4* Calcium-8.2* Phos-6.5* 
Mg-2.0
___ 11:20AM BLOOD VitB12-1507* Folate-GREATER TH
___ 11:20AM BLOOD TSH-5.0*
___ 07:50AM BLOOD T4-2.8*
___ 11:40AM BLOOD Lactate-1.8
___ 12:35PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 12:35PM URINE Blood-LG Nitrite-NEG Protein-300 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 12:35PM URINE RBC-38* WBC->182* Bacteri-FEW Yeast-MANY 
Epi-0
___ 12:35PM URINE CastHy-4*

LABS ON DISCHARGE

___ 07:23AM BLOOD WBC-10.7 RBC-3.33* Hgb-10.1* Hct-32.9* 
MCV-99* MCH-30.3 MCHC-30.7* RDW-17.5* Plt ___
___ 12:50PM BLOOD ___ PTT-35.2 ___
___ 07:23AM BLOOD Glucose-142* UreaN-36* Creat-2.5* Na-137 
K-4.0 Cl-97 HCO3-31 AnGap-13
___ 07:23AM BLOOD Calcium-10.0 Phos-2.8 Mg-2.1

MICRO
___ 11:20 am BLOOD CULTURE
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 12:25 pm URINE     Site: NEPHROSTOMY
      RIGHT NEPHROSTOMY TUBE. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      YEAST.    >100,000 ORGANISMS/ML.. 

Time Taken Not Noted     Log-In Date/Time: ___ 12:35 pm
      URINE     Site: NEPHROSTOMY      LEFT NEPHROSTOMY TUBE. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      YEAST.    >100,000 ORGANISMS/ML.. 

___ 1:00 pm BLOOD CULTURE
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___: 
      STAPHYLOCOCCUS EPIDERMIDIS. 
         Isolated from only one set in the previous five days. 
         IDENTIFICATION AND SENSITIVITY REQUESTED BY ___ 
___ ___. 
         FINAL SENSITIVITIES. 
         COAG NEG STAPH does NOT require contact precautions, 
regardless of
         resistance. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         Rifampin should not be used alone for therapy. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPHYLOCOCCUS EPIDERMIDIS
                             |   
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------  =>16 R
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
VANCOMYCIN------------     1 S

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 
      Reported to and read back by ___ 3:23PM 
___. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 

___ 7:22 pm BLOOD CULTURE      2 OF 2. 
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 7:10 am BLOOD CULTURE
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 3:08 pm BLOOD CULTURE
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING
___ CXR: IMPRESSION:  
  
No change since the prior radiograph in probable small bilateral 
pleural 
effusions and bilateral hilar prominence, likely due to vascular 
congestion. 

___ CXR:  
IMPRESSION:  
  
Diffuse prominence of lung vasculature associated with bilateral 
pleural 
effusions, right greater than left and cardiomegaly reflect 
fluid overload and 
pulmonary edema. 
Likely bibasilar atelectasis. 

___ CXR: IMPRESSION:  
  
Large right pleural effusion and mild to moderate pulmonary 
edema and moderate to severe cardiomegaly are stable since ___, having worsened after ___. 
  
Dual channel dialysis catheter ends in the right atrium and 
inferior 
cavoatrial junction.  No pneumothorax. 

 
Brief Hospital Course:
Ms. ___ is an ___ w/ afib on coumadin, CKD w/ bilateral 
nephrostomy tubes p/w generalized malaise, who was treated with 
a trial of HD via tunneled line 

ACTIVE ISSUES 

#CKD: Cr 4.0 on admission unchanged from last discharge. During 
her last admission, renal ultrasound on ___ was reassuring 
against hydronephrosis. Additionally, interventional radiology 
colleagues evaluated her percutaneous nephrostomy tubes in the 
ED, and noted that the right PCN was not draining and noted 
bloody drainage around skin site. The drain was flushed, and 3 
way adapters added to both  
drains. She then underwent ___ guided bilateral PCN exchange on 
___ as the R PCN was noted to be dislodged and the L PCN 
would have been due for routine exchange shortly. During this 
admission, ___ again evaluated her, at the beside, and her 
nephrostomies were found to be intact and draining yellow urine. 
After discussion with the medicine, renal dialysis teams and the 
patient and family, it was determined that she would undergo a 
trial of hemodialysis via tunneled line.
The line was placed on ___, and she was dialyzed in the 
hospital. She was discharged with plans for continued outpatient 
dialysis. 

# Hypoxia: Patient noted to have large right-pleural effusion 
and intermittent 2L oxygen requirement. Repeat cxr on day of 
discharge showed persistent r pleural effusion, improved from 
CXR on admission, but stable from CXR several days prior to 
discharge. She was 95-98% on room air on day of discharge. 

#Staph epidermidis bacteremia: Noted during routine infectious 
work up after she presented to the ED with malaise. Repeat blood 
cultures did not grow anything; this was therefore thought to 
represent a contaminant as it grew in only one bottle. No 
further intervention was needed.

#Skin breakdown: Bilateral nephrostomy tubes with surrounding 
erythema, nontender to palpation, with skin breakdown, most 
notable in areas covered by tape; some eroded patches 
bilaterally with purulent drainage. Likely ___ irritant contact 
dermatitis. She was treated with topical mupirocin, transitioned 
to barrier ointments and gauze to promote healing and the 
erythema was improved by the time of discharge.
 
#Urine culture with yeast: Unlikely infected. Patient's UOP is 
reasonable despite poor fluid intake. She has clear 
non-concentrated urine in b/l nephrostomy bags, lack of fever, 
improving WBC, bland UAs with only commensal organisms patient's 
presentation is not concerning for UTI.  

#Weakness/anhedonia: ___ was consulted: rec home with 24 hour 
care (pt and family did not want rehab). She was discharged home 
with services. Her mood improved in the hospital, and her family 
was supportive and visited her here. 
  
# Depression: Complicated by hospital stays, loss of friends and 
medical ___. Home citalopram and buspirone were held 
prior to HD. Citalopram was subsequently resumed prior to 
discharge

#Volume Overload: Patient shows signs of volume overload with 6 
lbs weight gain, b/l edema, and poor UOP. No SOB on exam. Likely 
exacerbated by home furosemide being held on prior discharge. 
She was treated with furosemide 120mg IV x1 on admission and 
subsequently transitioned to furosemide BID home dosing. 
Discharge weight was ***  

CHRONIC ISSUES
# Normocytic Anemia: Likely anemia related to CKD. Iron 
supplements were continued.
# Tremor: Baseline tremor v. myoclonus in the setting of ESRD. 
She was treated with HD as above.
#Atrial fibrillation: She was treated with home metoprolol and 
warfarin.
# DM: HbA1c 6.7% (___), She was treated with ISS in the 
hospital
#Hx of gout: Continued home allopurinol  
#HTN: Continued home metoprolol and lisinopril

# CODE STATUS: DNR/OK to intubate per pt wishes 
# CONTACT: HCP: ___ (daughter) ___: ___, 
Cell: ___  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q4H:PRN pain 
2. Allopurinol ___ mg PO EVERY 3 DAYS 
3. BusPIRone 15 mg PO BID 
4. Citalopram 20 mg PO DAILY 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Loratadine 10 mg PO EVERY OTHER DAY 
8. Metoprolol Succinate XL 25 mg PO BID 
9. Warfarin 2.5 mg PO MON, WED,FRI 
10. Gabapentin 100 mg PO DAILY 
11. Januvia (sitaGLIPtin) 25 mg oral daily 
12. darbepoetin alfa in polysorbat 100 mcg/0.5 mL injection 
monthly 
13. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN SOB/wheezing 
14. Warfarin 1.25 mg PO ___ 
15. Furosemide 160 mg PO BID 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Allopurinol ___ mg PO EVERY 3 DAYS 
3. Citalopram 10 mg PO DAILY 
RX *citalopram 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
4. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
5. Furosemide 160 mg PO BID 
6. Warfarin 2.5 mg PO MON, WED,FRI 
7. darbepoetin alfa in polysorbat 100 mcg/0.5 mL injection 
monthly 
8. Januvia (sitaGLIPtin) 25 mg oral daily 
9. Loratadine 10 mg PO EVERY OTHER DAY 
10. Metoprolol Succinate XL 25 mg PO BID 
11. ProAir HFA (albuterol sulfate) 90 mcg/actuation INHALATION 
Q4H:PRN SOB/wheezing 
12. Warfarin 1.25 mg PO ___ 
13. Nephrocaps 1 CAP PO DAILY 
RX *B complex with C#20-folic acid [Nephrocaps] 1 mg 1 
capsule(s) by mouth daily Disp #*30 Capsule Refills:*0
14. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth BID PRN Disp 
#*60 Capsule Refills:*0
15. Gabapentin 100 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
End stage renal disease
Atrial fibrillation
Uremia

Secondary diagnoses:
Depression
Normocytic anemia
Diabetes type 2
Hypertension
Pulmonary edema
Pulmonary artery hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking care of you at ___. You were admitted 
because your family noticed that you were not eating and 
drinking much and felt that you were withdrawn from your usual 
activities. We evaluated you and think that you need extra time 
to recover from recent hospitalizations. We did not find any 
infection or problem with your nephrostomy tubes. You, your 
family, and the kidney doctors decided to ___ a trial of dialysis 
in the hospital, which went well. You ate well in the hospital 
and reported improved mood.

Do not take any warfarin tonight when you go home. The 
___ clinic will contact you tomorrow and you should 
resume your home dose tomorrow

When you go home, please take the listed medications, and follow 
up with your doctors.

___ wishes in your recovery!
Your ___ Medicine Team
 
Followup Instructions:
___